* D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\Laboratorios\N_2\circuito_1\simulaciones\sumador.asc
V1 vcc 0 10
V2 0 vss 10
V3 vin1 0 SINE(0 {vint} {f}) AC {Vac1} Rser=100k
V4 vin2 0 SINE(0 {vint} {f}) AC {Vac2} Rser=100k
R2 N003 N002 {Ra}
R3 0 N003 {Rc}
R4 N003 vo {Rb}
R5 N002 vin2 {R}
R1 N002 vin1 {R}
R6 N001 0 {Ra}
R7 0 N001 {Rc}
R8 N001 Vth {Rb}
V5 Vth 0 AC 1
V6 vos 0 2m AC 0
I1 N002 0 45n AC 0
XU3 vos N002 vcc vss vo level.2 Avol=100K GBW=1Meg Slew=.5Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=1Meg
R9 N005 N004 {Ra}
R10 0 N005 {Rc}
R11 N005 N006 {Rb}
R12 N004 vin2 {R}
R13 N004 vin1 {R}
XU2 0 N004 vcc vss N006 LM324
.lib "D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\Laboratorios\LM324.lib.txt"
.param R=1Meg, Ra=150k,Rb=200k,Rc=1000
.param Vac1=1, Vac2=1
.param f=1k vint=1/6
*.ac dec 100 1 1Meg
.tran 0 1m 0 0.01
.op
* .step param f 100 2k 600
.lib UniversalOpamps2.sub
.backanno
.end
