* D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\Laboratorios\N_1\simulacion\ejer4\comparador_Con_Histeresis.asc
V1 vin 0 SINE(5 5 1k)
V2 vcc 0 10
V3 0 vss 0
R1 vin N001 10k
R2 N001 0 10k
R4 voideal N002 10k
R3 vref N002 2k
V4 vref 0 2
XU2 N002 N001 vcc vss voideal level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 vin v- 10k
R6 v- 0 10k
R7 voreal v+ 10k
R8 vref v+ 2k
XU3 v+ v- vcc vss voreal LM324
.lib "D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\Laboratorios\LM324.lib.txt"
*.dc V1 -2 10 .1 V4 0 4 1
.tran 0 3m 0 0.01
*.STEP PARAM vr 0 4 1
*.op
.lib UniversalOpamps2.sub
.backanno
.end
