* D:\dario\cuarto\sintesis de redes\Laboratorios\N_1\simulacion\tpN1.asc
XU1 Vin1 N001 vcc vss Vo1 LM324
R1 Vo1 N001 {R}
R2 N001 0 {R}
R3 N002 Vo1 {R}
R4 N002 N001 {R}
R5 Vo2 N002 {R}
XU2 Vin2 N002 vcc vss Vo2 LM324
V1 Vin1 0 SINE(0 {V_1} 1k) AC {V_1}
V2 Vin2 0 SINE(0 {V_2} 1k) AC {V_2}
V3 vcc 0 10
V4 0 vss 10
V5 N003 Vc SINE(0 1 1k) AC .5
V6 Vc N004 SINE(0 1 1k) AC .5
V7 Vc 0 SINE(0 1 1k) AC 5
.lib "D:\dario\cuarto\sintesis de redes\Laboratorios\LM324.lib.txt"
.param R = 1k
.param V_1=0
.param V_2=1
.ac dec 30 .1 100Meg
* .STEP PARAM V_1 0 1 1
* .STEP PARAM V_2 1 0 1
; Simulation settings
.backanno
.end
