* D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\ejercicios\ejer1_16\1_16.asc
XU1 0 N001 Vcc Vss Vo LM324
D1 Vin N004 BZX84C8V2L
D3 N001 N002 1N750
D5 N005 N004 BZX84C8V2L
D2 N003 N002 1N750
R2 N001 Vo {R}
R1 N003 Vo {R}
R3 N005 N001 {R}
R4 Vin N001 {R}
V1 Vin 0 SINE(0 {Vin} 1k) AC 1
V3 Vcc 0 10
V2 0 Vss 10
.model D D
.lib C:\Users\PC\Documents\LTspiceXVII\lib\cmp\standard.dio
.lib "D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\Laboratorios\LM324.lib.txt"
.tran 0 10m 0 0.01m
.PARAM R=10000  ; Batch instruction
.PARAM Vin=20  ; Batch instruction
; Simulation settings
.backanno
.end
