* D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\ejercicios\ejer1_17\ejer1_17.asc
XU1 vin vn1 vcc vss N001 LM324
D1 N001 vn1 1N914
D3 vx N001 1N914
R1 vx vn1 {R}
R2 vn2 vx {R/2}
R3 vo vn2 {R}
R4 vn1 0 {R}
XU2 vin vn2 vcc vss vo LM324
V2 vin 0 SINE(0 {Vin} 1k)
V3 vcc 0 10
V1 0 vss 10
.model D D
.lib C:\Users\PC\Documents\LTspiceXVII\lib\cmp\standard.dio
.lib "D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\Laboratorios\LM324.lib.txt"
.tran 0 1m 0 0.1m
*.step param Vin -1 1 0.5
*.param R = 1k
*.op
.PARAM R=10000  ; Batch instruction
.PARAM Vin=2  ; Batch instruction
; Simulation settings
.backanno
.end
